US05872118
A mixture of 4-(2-fluorophenyl)butyric acid (100 g, 0.55 mol) and thionyl chloride (418.8 g, 3.51 mol) was refluxed for 3 h. The excess thionyl chloride was removed in vacuo to give 110.1 g (100%) of 4-(2-fluorophenyl)butyryl chloride.

reactant | 4-(2-fluorophenyl)butyric acid | 0.55 mol, 100 g | FC1=C(C=CC=C1)CCCC(=O)O | C10H11FO2
reactant | thionyl chloride | 3.51 mol, 418.8 g | S(=O)(Cl)Cl | Cl2OS
product | 4-(2-fluorophenyl)butyryl chloride | 110.1 g, 100% | FC1=C(C=CC=C1)CCCC(=O)Cl | C10H10ClFO
